US05990142
18I Ethyl 8-[[4-(4-phenylbutoxy)phenyl]methyloxy]-4-oxo-4H-1-benzopyran-2-carboxylate
A solution of potassium carbonate (330 mg, 2.39 mmol) in dry N,N-dimethylformamide (15 ml) was added with ethyl 8-hydroxy-4-oxo-4H-1-benzopyran-2-carboxylate (520 mg, 2.39 mmol) stirring at room temperature for 10 min. After that the reaction mixture was added with 4-(4-phenylbutoxy)benzyl chloride 595 mg, 2.17 mmol) and left under stirring at 60° C. for 18 h, subsequently was added with water (25 ml), extracted with ethyl ether (3×50 ml), dried and the solvent was evaporated off under reduced pressure, to obtain a residue which was purified by chromatography through a silica gel column, eluting with petroleum ether:chloroform, 7:3, recovering 740 mg of the title compound (66% yield).

reactant | potassium carbonate | 2.39 mmol, 330 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 8-hydroxy-4-oxo-4H-1-benzopyran-2-carboxylate | 2.39 mmol, 520 mg | OC1=CC=CC=2C(C=C(OC21)C(=O)OCC)=O | C12H10O5
reactant | 4-(4-phenylbutoxy)benzyl chloride | 2.17 mmol, 595 mg | C1(=CC=CC=C1)CCCCOC1=CC=C(CCl)C=C1 | C17H19ClO
reactant | water | 25 ml | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 8-[[4-(4-phenylbutoxy)phenyl]methyloxy]-4-oxo-4H-1-benzopyran-2-carboxylate | 740 mg, 66% yield | C1(=CC=CC=C1)CCCCOC1=CC=C(C=C1)COC1=CC=CC=2C(C=C(OC21)C(=O)OCC)=O | C29H28O6
